US09029560B2
Preparation of (Z)-1-(3-(4-fluoro-2-isopropylphenyl)-4-oxothiazolidin-2-ylidene)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)urea (P3, P1172)
To a 20 mL vial was added 1-[(4-fluoro-2-isopropyl-phenyl)carbamothioyl]-3-[[4-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]methyl]urea (PC3) (0.092 g, 0.16 mmol), sodium acetate (0.040 g, 0.48 mmol), methyl 2-bromoacetate (0.084 mL, 0.80 mmol) and acetonitrile (2.0 mL). The vial was sealed and the reaction was heated overnight at 65° C. The reaction mixture was diluted with brine solution and dichloromethane and passed through a phase separator. The organic layer was concentrated and the resulting residue was purified by flash column chromatography using 10-80% ethyl acetate/hexanes as eluent providing the title compound as a white solid (0.058 g, 58%).

reactant | 1-[(4-fluoro-2-isopropyl-phenyl)carbamothioyl]-3-[[4-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]methyl]urea | 0.16 mmol, 0.092 g | FC1=CC(=C(C=C1)NC(=S)NC(=O)NCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C(C)C | C27H24F4N6O2S
reactant | sodium acetate | 0.48 mmol, 0.040 g | C(C)(=O)[O-].[Na+]
reactant | methyl 2-bromoacetate | 0.80 mmol, 0.084 mL | BrCC(=O)OC | C3H5BrO2
reactant | acetonitrile | 2.0 mL | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (Z)-1-(3-(4-fluoro-2-isopropylphenyl)-4-oxothiazolidin-2-ylidene)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzyl)urea | 0.058 g, 58% | FC1=CC(=C(C=C1)N1/C(/SCC1=O)=N/C(=O)NCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C(C)C | C29H24F4N6O3S
